data/rdb19/train.csv
rxn,smiles,ea
2910,[C:16]([C:17]([C:18]([C:19]([H:29])([H:30])[H:31])([C:20]([H:21])[H:22])[H:28])([H:26])[H:27])([H:23])([H:24])[H:25].[C:1]([C:2]([O:3][C:4](=[O:5])[C:6](=[C:7]([H:14])[H:15])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([O:3][C:4](=[O:5])[C:6](=[C:7]([H:14])[H:15])[H:13])[H:12])([H:8])([H:9])[H:10].[H:11][C:20]([C:18]([C:17]([C:16]([H:23])([H:24])[H:25])([H:26])[H:27])([C:19]([H:29])([H:30])[H:31])[H:28])([H:21])[H:22],20.70736351027153
5417,[C:17]([C:18]([C:19]([H:20])[N:21]([C:22](=[O:23])[H:30])[H:29])([H:27])[H:28])([H:24])([H:25])[H:26].[C:1](=[C:2]([c:3]1[c:4]([H:12])[c:5]([H:13])[c:6]([H:14])[c:7]([H:15])[c:8]1[H:16])[H:11])([H:9])[H:10]>>[C:17]([C:18](=[C:19]([H:20])[N:21]([C:22](=[O:23])[H:30])[H:29])[H:28])([H:24])([H:25])[H:26].[C:1](=[C:2]([C:3]1=[C:4]([H:12])[C:5]([H:13])[C:6]([H:14])([H:27])[C:7]([H:15])=[C:8]1[H:16])[H:11])([H:9])[H:10],39.49281432747375
846,[C:19]([O:20][C:21]([C:22]([H:30])([H:31])[H:32])([C:23]([H:24])[H:25])[H:29])([H:26])([H:27])[H:28].[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([C:5](=[O:6])[N:7]([H:17])[H:18])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:19]([O:20][C:21]([C:22]([H:30])([H:31])[H:32])=[C:23]([H:24])[H:25])([H:26])([H:27])[H:28].[C:1]([C:2]([C:3]([C:5](=[O:6])[N:7]([H:17])[H:18])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10].[C:4]([H:14])([H:15])([H:16])[H:29],73.11359080049442
1791,[C:15]([C:16](=[C:17]([H:24])[H:25])[C:18](=[O:19])[O:20][H:26])([H:21])([H:22])[H:23].[C:1]([C:2]([C:3]([H:4])[C:5](=[O:6])[N:7]([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:16](=[C:17]([H:24])[H:25])[C:18](=[O:19])[O:20][H:26].[C:1]([C:2](=[C:3]([H:4])[C:5](=[O:6])[N:7]([H:13])[H:14])[H:11])([H:8])([H:9])[H:10].[H:12][C:15]([H:21])([H:22])[H:23],86.50456302519888
1492,[C:10]([C:11]([C:12]([H:13])[H:14])([c:15]1[c:16]([H:25])[c:17]([H:26])[c:18]([H:27])[c:19]([H:28])[c:20]1[H:29])[H:24])([H:21])([H:22])[H:23].[O:1]([C:2](=[O:3])[C:4](=[C:5]([H:8])[H:9])[H:7])[H:6]>>[C:10]([C:11](=[C:12]([H:13])[H:14])[c:15]1[c:16]([H:25])[c:17]([H:26])[c:18]([H:27])[c:19]([H:28])[c:20]1[H:29])([H:21])([H:22])[H:23].[O:1]([C:2]([O:3][H:24])[C:4](=[C:5]([H:8])[H:9])[H:7])[H:6],33.30438115884317
939,[C:19]([C:20]([C:21]([H:22])[H:23])([N:24]([C:25](=[O:26])[H:32])[H:31])[H:30])([H:27])([H:28])[H:29].[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([C:5](=[O:6])[N:7]([H:17])[H:18])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([H:11])[H:12])([H:8])([H:9])[H:10].[C:3]([C:4]([H:14])([H:15])[H:16])([C:5](=[O:6])[N:7]([H:17])[H:18])([H:13])[C:21]([C:20]([C:19]([H:27])([H:28])[H:29])([N:24]([C:25](=[O:26])[H:32])[H:31])[H:30])([H:22])[H:23],57.0196063547628
3294,[C:13]([C:14]([C:15]([C:16]([H:23])([H:24])[H:25])[C:17]([H:26])([H:27])[H:28])([H:21])[H:22])([H:18])([H:19])[H:20].[C:1]([C:2](=[C:3]([H:8])[H:9])[C:4]([H:10])([H:11])[H:12])([H:5])([H:6])[H:7]>>[C:13]([C:14](=[C:15]([C:16]([H:23])([H:24])[H:25])[C:17]([H:26])([H:27])[H:28])[H:22])([H:18])([H:19])[H:20].[C:1]([C:2]([C:3]([H:8])([H:9])[H:21])[C:4]([H:10])([H:11])[H:12])([H:5])([H:6])[H:7],34.554219264449785
1515,[C:10]([C:11]([C:12]([H:13])[H:14])([O:15][C:16](=[O:17])[C:18]([H:23])([H:24])[H:25])[H:22])([H:19])([H:20])[H:21].[O:1]([C:2](=[O:3])[C:4](=[C:5]([H:8])[H:9])[H:7])[H:6]>>[O:1]([C:2]([O:3])([C:4](=[C:5]([H:8])[H:9])[H:7])[C:12]([C:11]([C:10]([H:19])([H:20])[H:21])([O:15][C:16](=[O:17])[C:18]([H:23])([H:24])[H:25])[H:22])([H:13])[H:14])[H:6],23.125044214189984
650,[C:19]([O:20][O:21])([H:22])([H:23])[H:24].[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([C:5](=[O:6])[N:7]([H:17])[H:18])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([C:5](=[O:6])[N:7]([H:18])[O:21])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10].[H:17][O:20][C:19]([H:22])([H:23])[H:24],65.57277035794687
4276,[C:16]([O:17][C:18]([C:19]([H:27])([H:28])[H:29])([C:20]([H:21])[H:22])[H:26])([H:23])([H:24])[H:25].[C:1]([O:2][C:3](=[O:4])[C:5](=[C:6]([H:11])[H:12])[C:7]([H:13])([H:14])[H:15])([H:8])([H:9])[H:10]>>[C:16]([O:17][C:18]([C:19]([H:27])([H:28])[H:29])=[C:20]([H:21])[H:22])([H:23])([H:24])[H:25].[C:1]([O:2][H:26])([H:8])([H:9])[H:10].[C:3](=[O:4])[C:5](=[C:6]([H:11])[H:12])[C:7]([H:13])([H:14])[H:15],53.32836720219348
2554,[C:1]([C:2]([O:3][C:4](=[O:5])[C:6]([C:7]([H:17])([H:18])[H:19])([C:8]([H:9])[H:10])[H:16])([H:14])[H:15])([H:11])([H:12])[H:13].[C:20]([O:21][C:22](=[O:23])[C:24](=[C:25]([H:30])[H:31])[C:26]([H:32])([H:33])[H:34])([H:27])([H:28])[H:29]>>[C:1]([C:2]([O:3][C:4](=[O:5])[C:6]([C:7]([H:17])([H:18])[H:19])([C:8]([H:9])([H:10])[O:21][C:20]([H:27])([H:28])[H:29])[H:16])([H:14])[H:15])([H:11])([H:12])[H:13].[C:22](=[O:23])[C:24](=[C:25]([H:30])[H:31])[C:26]([H:32])([H:33])[H:34],51.240367709309794
